US09029408B2
Synthesis of 1-(Phenylsulfonyl)-1H-indole-5-carbaldehyde (8xa)
To a solution of indole-3-carboxaldehyde (100 mmol) in ethanol (500 mL) at room temperature was added potassium hydroxide (110 equiv), the mixture was stirred until total solubilization. The ethanol was completely removed in vacuum and acetone (250 mL) added followed by benzenesulfonyl chloride (110 equiv). The precipitate was filtered off and the filtrate was concentrated and recrystallized from methanol to give a white solid. Yield: 32.6% 1H NMR (500 MHz, CDCl3) δ 10.17 (s, 1H), 8.25-8.39 (m, 2H), 7.97-8.09 (m, 3H), 7.69 (t, J=7.33 Hz, 1H), 7.59 (t, J=7.5 Hz, 2H), 7.39-7.54 (m, 2H). MS (ESI) calcd for C15H11NO3S 285.1. found 286.0 [M+H]+.

reactant | indole-3-carboxaldehyde | 100 mmol | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | potassium hydroxide | 110 equiv | [OH-].[K+]
reactant | benzenesulfonyl chloride | 110 equiv | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ethanol | 500 mL | C(C)O | C2H6O
product | 1-(Phenylsulfonyl)-1H-indole-5-carbaldehyde | Yield: 32.6% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)C=O | C15H11NO3S
